US07560558B2
Compound 64: {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4-methoxyphenyl}-(phenyl)methanone
4-Chloro-6,7-dimethoxyquinoline (56.5 mg), 2-hydroxy-4-methoxybenzophenone (286 mg), and 4-dimethylaminopyridine (163 mg) were suspended in o-dichlorobenzene (5 ml), and the suspensioon was stirred at 160° C. for 4 hr. The reaction solution was cooled to room temperature, and the solvent was then removed therefrom by distillation under the reduced pressure. Chloroform was added to the residue, and the mixture was washed with a 1 N aqueous potassium hydroxide solution and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform and by thin layer chromatography using acetone-hexane to give the title compound (14.5 mg, yield 14%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 56.5 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-hydroxy-4-methoxybenzophenone | 286 mg | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H12O3
catalyst | 4-dimethylaminopyridine | 163 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-4-methoxyphenyl}-(phenyl)methanone | 14.5 mg, yield 14% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=CC(=C1)OC)C(=O)C1=CC=CC=C1 | C25H21NO5
